US06521666B1
4-Amino-2,6-dichlorobenzoic acid methyl ester (0.5 g) was suspended in 15% HCl (10 mL) and stirred for 30 min then cooled to 0-5° C. After addition of NaNO2 (188 mg) in small portions, the mixture was stirred for 30 min at that temperature. Precooled HBF4 (0.46 mL) was added and the mixture was stirred for 30 min. The resulting precipitate was collected and washed successively with cold water, MeOH and ether. The solid was then dried over conc. H2SO4 in a vacuum dessicator for a few days. The solid was heated with a bunsen burner until all the solid has melted. The resulting fumes were collected over water (distilling apparatus). The product was then recovered with Et2O. The solvent was evaporated and the crude product was purified by preparative TLC (silica gel; eluent: hexane/AcOEt 50:1 to 20:1) to give 2,6-dichloro-4-fluorobenzoic acid methyl ester (241 mg).

reactant | 4-Amino-2,6-dichlorobenzoic acid methyl ester | 0.5 g | COC(C1=C(C=C(C=C1Cl)N)Cl)=O | C8H7Cl2NO2
reactant | NaNO2 | 188 mg | N(=O)[O-].[Na+]
reactant | HBF4 | 0.46 mL | [H+].[B-](F)(F)(F)F
solvent | HCl | 10 mL | Cl | ClH
product | 2,6-dichloro-4-fluorobenzoic acid methyl ester | 241 mg | COC(C1=C(C=C(C=C1Cl)F)Cl)=O | C8H5Cl2FO2
